Name:  ___                          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Suprasellar lesion 
 
Major Surgical or Invasive Procedure:
___ Right craniotomy for tumor resection

 
History of Present Illness:
___ who initially presented with  difficulty with his 
vision 6 months ago, while in ___.  He describes problems with 
peripheral vision.  The vision in the right eye is worse than 
the left.  He does not describe any acute or subacute changes in 
vision in either eye. When he saw an ophthalmologist, visual 
field test showed defects and this led to an MRI that showed a 
pituitary lesion.  The pituitary MRI ___ on our system 
showed a 2.9 x 2.1 x 2.3 cm
heterogeneously enhancing missed mixed cystic and solid 
suprasellar mass with superior and lateral displacement of the 
chiasm and the optic nerves per report. He presents to today for 
scheduled elective resection of suprasellar lesion. 

 
Past Medical History:
Vocal cord surgery- ___  
Left abdominal surgery as a child  

 
Social History:
___
Family History:
Father w/ DM2  
No history of CNS mass  

 
Physical Exam:
Upon discharge: 
Exam:

Gen: Resting comfortably, NAD
HEENT: Atraumatic
Neck: Supple

Resp: No respiratory distress
Extrem: warm and well perfused

Neuro:

Mental Status: Awake and alert. Cooperative with exam, normal 
affect.
Orientation: Oriented to person, place, and date.
Language: Speech is fluent with good comprehension.  No 
dysarthria.

Cranial Nerves:
 I: Not tested
 II: Pupils equally round and reactive to light, 4mm to 3mm 
bilaterally. 
 III, IV, VI: Extraocular movements intact bilaterally without 
nystagmus.
 V, VII: Facial strength and sensation intact and symmetric.
 VIII: Hearing intact to voice.
 IX, X: Palatal elevation symmetrical.
 XI: Sternocleidomastoid and trapezius normal bilaterally.
 XII: Tongue with slight left deviation without fasciculations.

Motor: 
 Normal bulk and tone bilaterally. No abnormal movements, 
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch

Skin: Incision open to air, no signs of infection

 
 
Pertinent Results:
Please see OMR for pertinent results. 
 
Brief Hospital Course:
Mr ___ was admitted for elective resection of known suprasellar 
lesion. 

#Suprasellar lesion 
Patient underwent Right craniotomy for resection of suprasellar 
lesion on ___. Procedure was uncomplicated and well tolerated. 
Patient was transferred to the Neuro ICU post operatively for 
close monitoring.  Post op CT done, with expected postoperative 
changes. Given location of lesion patient was monitored very 
closely for development of DI. He was transferred to the ___ on 
___. On ___, the patient described a new headache, and 
therefore a NCHCT was performed. It revealed a slightly 
increased hyperdense component to the right frontal extra-axial 
fluid collection underlying the craniotomy site. This was 
monitored closely. He remained neurologically intact. On ___ 
his staples were removed.   

#Diabetes Insipidus   
The patient developed DI on ___ and received 1 mcg DDAVP. 
Endocrine was consulted. Serum sodium, serum osmolality, and 
urine specific gravity were monitored every ___ hours. IV fluids 
were discontinued and the patient was encouraged to drink to 
thirst. Foley was kept in place for close urine output 
monitoring; it was discontinued on ___. 

#Hyponatremia
On ___, he was lethargic was noted to be hyponatremic. He was 
started on salt tabs and a 3% HTS gtt. Serum sodium was 
monitored every 4 hours and uptrended. 3% was discontinued. 
Hyponatremia was thought to be secondary to adrenal 
insufficiency. He was placed on a 1 liter fluid restriction. Pt 
received a Endocrine consult and a renal consult. Pt was started 
on Levothyroxine po daily. On ___, his sodium levels had 
normalized and the 3%HTS gtt was discontinued. Pt maintained 
Salt tabs 3gm TID and 1L Fluid restriction. He was instructed to 
return the day after discharge to have his sodium level checked. 
 

#Adrenal insufficiency
He was started on hydrocortisone taper post-operatively and 
tapered to off. However, cortisol level was low. He was started 
on a maintenance dose of Hydrocortisone. A repeat cortisol level 
was drawn on ___.  At time of discharge his hydrocortisone 
dosing was 15mg every morning and 5mg in the evening.

#Leukocytosis
On ___, WBC uptrended and he was pan cultured. CXR was 
negative for pneumonia. UA was negative for UTI and blood 
cultures were negative to date. Pt's WBC slowly decreased and 
was stable at the time of discharge. 

 
Medications on Admission:
Vit D3, 

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN fever or pain  
2.  Bisacodyl 10 mg PO/PR DAILY:PRN constipation  
3.  Docusate Sodium 100 mg PO BID  
4.  Hydrocortisone 15 mg PO DAILY 
RX *hydrocortisone 5 mg 3 tablet(s) by mouth Every morning Disp 
#*90 Tablet Refills:*2 
5.  Hydrocortisone 5 mg PO DAILY 
RX *hydrocortisone [Cortef] 5 mg 1 tablet(s) by mouth Every 
evening Disp #*30 Tablet Refills:*2 
6.  Levothyroxine Sodium 75 mcg PO DAILY 
RX *levothyroxine 75 mcg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*2 
7.  Omeprazole 20 mg PO DAILY  
8.  Senna 17.2 mg PO QHS  
9.  Sodium Chloride 3 gm PO TID 
RX *sodium chloride 1 gram 3 tablet(s) by mouth three times a 
day Disp #*270 Tablet Refills:*2 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Suprasellar lesion
Adrenal insufficiency
Hyponatremia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Tumor Resection:
¨ Take your pain medicine as prescribed.
¨ Exercise should be limited to walking; no lifting, straining, 
or excessive bending.
¨ Increase your intake of fiber, as narcotic pain medicine can 
cause constipation. We generally recommend taking an over the 
counter stool softener, such as Docusate (Colace) while taking 
narcotic pain medication.
¨ Unless directed by your doctor, do not take any 
anti-inflammatory medicines such as Motrin, Aspirin, Advil, and 
Ibuprofen etc. 
¨ Clearance to drive and return to work will be addressed at 
your post-operative office visit.
¨ Continue Sinus Precautions for an additional two weeks.  This 
means, no use of straws, forceful blowing of your nose, or use 
of your incentive spirometer. 
¨ Take your hydrocortisone as prescribed; contact your 
endocrinologist if you miss any doses.  

CALL YOUR DOCTOR IMMEDIATELY IF YOU EXPERIENCE ANY OF THE 
FOLLOWING
¨ New onset of tremors or seizures.
¨ Any confusion or change in mental status. 
¨ Any numbness, tingling, weakness in your extremities.
¨ Pain or headache that is continually increasing, or not 
relieved by pain medication.
¨ Any signs of infection at the wound site: redness, swelling, 
tenderness, or drainage.
¨ It is normal for feel nasal fullness for a few days after 
surgery, but if you begin to experience drainage or salty taste 
at the back of your throat, that resembles a “dripping” 
sensation, or persistent, clear fluid that drains from your nose 
that was not present when you were sent home, please call. 
¨ Fever greater than or equal to 101° F.
¨ If you notice your urine output to be increasing, and/or 
excessive, and you are unable to quench your thirst, please call 
your endocrinologist. 
 
Followup Instructions:
___